US07399765B2
6-(4-Bromo-phenyl)-4,5-dihydro-2H-pyridazin-3-one
A solution of 4-(4-bromo-phenyl)-4-oxo-butyric acid (Aldrich, 25.0 g, 97.3 mmol) in EtOH (100 mL) was treated with aqueous hydrazine (Aldrich, 55%, 9.1 mL, 100 mmol) at 80° C. for 2 h. The mixture was cooled to room temperature and the precipitate was collected by filtration and dried under vacuum to provide the title compound (24 g, 97% yield). 1H NMR (300 MHz, CDCl3) δ 2.35-2.76 (m, 2H), 2.80-3.11 (m, 2H), 7.45-7.77 (m, 4H), 8.55 (s, 1H); MS (DCl/NH3) m/z 253 (M+H)+, 255 (M+H)+.

reactant | 4-(4-bromo-phenyl)-4-oxo-butyric acid | 97.3 mmol, 25.0 g | BrC1=CC=C(C=C1)C(CCC(=O)O)=O | C10H9BrO3
reactant | hydrazine | 100 mmol, 9.1 mL | NN | H4N2
solvent | EtOH | 100 mL | CCO | C2H6O
product | 6-(4-Bromo-phenyl)-4,5-dihydro-2H-pyridazin-3-one | 24 g, 97% yield | BrC1=CC=C(C=C1)C=1CCC(NN1)=O | C10H9BrN2O
